US05939359
Synthesis of 2-(3-trifluoromethylphenoxy)-3-cyanopyrazine
12.8 g (80 mmol) of 3-trifluoromethylphenol are added to a suspension of 2.2 g (90 mmol) of sodium hydride in 40 ml of tetrahydrofuran. The reaction mixture is heated to the boil. After 1 hour, a solution of 11.2 g (80 mmol) of 2-chloro-3-cyanopyrazine in 40 ml of tetrahydrofuran is added and the mixture is heated at the boil for a further 4 hours. After the mixture has cooled to room temperature, the solvent is distilled off under reduced pressure. The residue is taken up in diethyl ether and the solution is extracted with 5% strength, aqueous sodium hydroxide solution, washed with distilled water, dried over magnesium sulfate, filtered and freed from the solvent under reduced pressure. The crude product is purified by chromatography (silica gel, cyclohexane/ethyl acetate 20/1 (v/v)). 4.6 g (51%) of a yellow, crystalline solid of melting point 68-70° C. are obtained.

reactant | 3-trifluoromethylphenol | 80 mmol, 12.8 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | sodium hydride | 90 mmol, 2.2 g | [H-].[Na+]
reactant | 2-chloro-3-cyanopyrazine | 80 mmol, 11.2 g | ClC1=NC=CN=C1C#N | C5H2ClN3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(3-trifluoromethylphenoxy)-3-cyanopyrazine | FC(C=1C=C(OC2=NC=CN=C2C#N)C=CC1)(F)F | C12H6F3N3O
